US07985755B2
5-[4-(3-Chloro-benzyl)-piperazin-1-yl]-quinazoline-2,4-diamine
Title compound was prepared via Resin Method using 5-piperazin-1-yl-quinazoline-2,4-diamine (50 mg; 0.2 mmol) and 3-Chlorobenzyl bromide (76 mg; 0.37 mmol) to obtain 49.5 mg. (67% yield). 1H NMR (400 MHz, DMSO-d6) δ 12.4 (s, 1H), 10.0 (s, 1H), 9.0 (s, 1H), 7.72 (m, 2H), 7.34 (m, 4H), 7.22 (d, J=8.0 Hz, 1H), 3.59 (s, 2H), 3.03 (br d, J=10.8 Hz, 2H), 2.90 (m, 4H), 2.31 (m, 2H). ESIMS+369.2 m/z

reactant | 5-piperazin-1-yl-quinazoline-2,4-diamine | 0.2 mmol, 50 mg | N1(CCNCC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C12H16N6
reactant | 3-Chlorobenzyl bromide | 0.37 mmol, 76 mg | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
product | 5-[4-(3-Chloro-benzyl)-piperazin-1-yl]-quinazoline-2,4-diamine | 67% yield | ClC=1C=C(CN2CCN(CC2)C2=C3C(=NC(=NC3=CC=C2)N)N)C=CC1 | C19H21ClN6
